US08557805B2
2-(Methylsulfonyl)-5-(4-nitrophenoxy)pyridine
To a solution of 4-fluoronitrobenzene (4.74 g) and 6-(methylsulfonyl)pyridin-3-ol (6.4 g) in N,N-dimethylformamide (50 mL) was added potassium carbonate (9.3 g), and the mixture was stirred at 100° C. for 3 hr. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The obtained crude product was crystallized from diethyl ether to give the title compound (9.88 g, yield 100%) as a yellow solid.

reactant | 4-fluoronitrobenzene | 4.74 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 6-(methylsulfonyl)pyridin-3-ol | 6.4 g | CS(=O)(=O)C1=CC=C(C=N1)O | C6H7NO3S
reactant | potassium carbonate | 9.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 2-(Methylsulfonyl)-5-(4-nitrophenoxy)pyridine | 9.88 g, yield 100% | CS(=O)(=O)C1=NC=C(C=C1)OC1=CC=C(C=C1)[N+](=O)[O-] | C12H10N2O5S
